US08039455B2
d) 3-Amino-5-oxazol-2-yl-benzoic acid methyl ester
A solution of 11.7 g (47.1 mmol) of 3-nitro-5-oxazol-2-yl-benzoic acid methyl ester in 1 l of MeOH and 200 ml of THF is stirred under an atmosphere of hydrogen in the presence of 0.6 g of Pd/C (10%) until the hydrogen up-take ceases. The mixture is filtered over high-flow, and the filtrate is washed with THF and evaporated to yield the product.

reactant | 3-nitro-5-oxazol-2-yl-benzoic acid methyl ester | 47.1 mmol, 11.7 g | COC(C1=CC(=CC(=C1)C=1OC=CN1)[N+](=O)[O-])=O | C11H8N2O5
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 1 l | CO | CH4O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | 0.6 g | [Pd] | Pd
product | 3-Amino-5-oxazol-2-yl-benzoic acid methyl ester | COC(C1=CC(=CC(=C1)C=1OC=CN1)N)=O | C11H10N2O3
